US04260619
Similarly, the mixture of 0.1 g of dibenzoyl-2-(2-isopropylaminopropyl)-5-pyridinol and 10 ml of 5 N hydrochloric acid may be refluxed for three days, cooled, filtered, evaporated and the residue triturated with acetone, to yield the 2-(2-isopropylaminopropyl)-5-pyridinol dihydrochloride melting at 199°-204°; it is identical with that obtained according to Examples 1, 3 and 8.

reactant | dibenzoyl-2-(2-isopropylaminopropyl)-5-pyridinol | 0.1 g | C(C1=CC=CC=C1)(=O)C1=C(C(=NC=C1O)CC(C)NC(C)C)C(C1=CC=CC=C1)=O | C25H26N2O3
reactant | hydrochloric acid | 5 N, 10 ml | Cl | ClH
product | 2-(2-isopropylaminopropyl)-5-pyridinol dihydrochloride | Cl.Cl.C(C)(C)NC(CC1=NC=C(C=C1)O)C | InChI=1S/C11H18N2O.2ClH/c1-8(2)13-9(3)6-10-4-5-11(14)7-12-10;;/h4-5,7-9,13-14H,6H2,1-3H3;2*1H
